US03987087
2-Oxo-4-p-fluorophenylbutyltriphenylphosphorane
To a solution of 29.25 g. of (2-oxo-4-p-fluorophenylbutyl)-triphenylphosphonium chloride of part 3, in 250 ml. of warm water is added 80 ml. of IN sodium hydroxide solution. An oil separates which solidifies. The solid is collected by filtration and dissolved in methylene chloride. The solution is dried and then concentrated on a steam bath. Skellysolve B is added to the boiling solution. Cooling gives cream prisms of the title compound (25.85 g.); m.p. 123°-125°. The infrared spectrum shows absorptions at 3490, 3540, 3240, 1605, 1590, 1575, 1550, 1525, 1510, 1485, 1440, 1390, 1220, 1105, 875, 860, 755, 720, and 700 cm -1. NMR peaks are observed at 2.6-3.0, 6.9-7.4 and 7.4-7.8 δ.

reactant | (2-oxo-4-p-fluorophenylbutyl)-triphenylphosphonium chloride | [Cl-].O=C(C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCC1=CC=C(C=C1)F
reactant | water | O | H2O
solvent | sodium hydroxide | [OH-].[Na+]
product | 2-Oxo-4-p-fluorophenylbutyltriphenylphosphorane | 25.85 g | O=C(CP(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCC1=CC=C(C=C1)F | C28H26FOP
